US06376491B1
a) Preparation of 4-[3-(tert-butoxycarbonyl-pyridin-3-ylmethyl-amino)-propoxy]-3-methyl-benzofuran-2-carboxylic acid
4-[3-(tert-Butoxycarbonyl-pyridin-3-ylmethyl-amino)-propoxy]-3-methyl-benzofuran-2-carboxylic acid ethyl ester (634 mg), the first intermediate of Example 87, was stirred with lithium hydroxide (113 mg) in tetrahydrofuran (2.7 ml) and water (2.7 ml) at 50° C. overnight. 2N HCl (1.35 ml) and ethyl acetate were added to the reaction mixture. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The product was obtained as a colorless foam (575 mg, 97%). The foam was used as a starting material in the next step without further purification. ESI-MS: m/z 441 (MH+); 1H-NMR δ: 1.51 (9H, s), 2.05-2.11 (2H, m), 2.74 (3H, s), 3.44 (2H, m), 4.02 (2H, t, J=5.4 Hz), 4,51 (2H, s), 6.51 (1H, d, J=7.6 Hz), 7.14 (1H, d, J=8.3 Hz), 7.23-7.34 (2H, m), 7.79 (1H, br), 8.51 (1H, dd, J=1.3, 5.0 Hz), 8.59 (1H, m).

reactant | 4-[3-(tert-Butoxycarbonyl-pyridin-3-ylmethyl-amino)-propoxy]-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 634 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCN(CC=2C=NC=CC2)C(=O)OC(C)(C)C | C26H32N2O6
reactant | lithium hydroxide | 113 mg | [OH-].[Li+]
reactant | HCl | 2N, 1.35 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.7 ml | O1CCCC1 | C4H8O
solvent | water | 2.7 ml | O | H2O
product | 4-[3-(tert-butoxycarbonyl-pyridin-3-ylmethyl-amino)-propoxy]-3-methyl-benzofuran-2-carboxylic acid | 575 mg, 97% | C(C)(C)(C)OC(=O)N(CCCOC1=CC=CC2=C1C(=C(O2)C(=O)O)C)CC=2C=NC=CC2 | C24H28N2O6
